US04206199
(1) Production of H-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met(O)-Asn-Thr-OH
800 mg of Boc-Gln-Asp(OBzl)-Phe-Val-Gln-Trp-Leu-Met(O)-Asn-Thr-OBzl was treated with TFA as in Example 7 and dissolved in 10 ml of DMF. To this solution was added Z-Ala-ONB (prepared from 120 mg of Z-Ala-OH, 100 mg of HONB and 110 mg of DCC) and the mixture was stirred for 24 hours. The solvent was distilled off under reduced pressure, ethyl acetate was added and the resultant powders were collected by filtration. Yield 760 mg. A 500 mg portion of this product was taken and 0.5 ml of anisole and 5 ml of methane-sulfonic acid were added. The mixture was shaken at room temperature for one hour. To this was added 100 ml of ether, whereby an oily precipitate was produced. The ether layer was removed by decanting. The residue was dissolved in 30 ml of 50% aqueous acetic acid, the solution was passed through an ion-exchange column (1×100 cm) of Amberlite IRA 410 (acetate form) and the effluent was lyophilized. The lyophilisate was suspended in 10 ml of water, treated with 0.5 N-aqueous ammonia at 0° C. for 30 minutes and lyophilized. The lyophilisate was dissolved in 5 ml of 50% acetic acid and the solution was run onto a column (3.4×57 cm) of Sephadex LH-20, elution being carried out with 50 % acetic acid. The fractions from 215 ml to 265 ml were pooled and lyophilized. Yield 55 mg; Rf3 0.68 (Avicel®)

reactant | Boc-Gln-Asp(OBzl)-Phe-Val-Gln-Trp-Leu-Met(O)-Asn-Thr-OBzl | 800 mg | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCS(=O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C77H104N14O20S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | H-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met(O)-Asn-Thr-OH | N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCS(=O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)O | C61H89N15O19S
